US08258160B2
Synthesis of 2-(1-(2-cyclopropylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 3, making variations as necessary to replace ethyl 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate with ethyl 2-(1-(2-cyclopropylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a white solid in 89% yield: MS (ES−) m/z 277.2 (M−1).

reactant | ethyl 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate | C(C1=CC=CC=C1)N1N=NC(=C1)C=1SC(=C(N1)C)C(=O)OCC | C16H16N4O2S
reactant | ethyl 2-(1-(2-cyclopropylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate | C1(CC1)CCN1N=NC(=C1)C=1SC(=C(N1)C)C(=O)OCC | C14H18N4O2S
product | 2-(1-(2-cyclopropylethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | 89% yield | C1(CC1)CCN1N=NC(=C1)C=1SC(=C(N1)C)C(=O)O | C12H14N4O2S
